US07982069B2
In an inert atmosphere, 26.8 mmol each of DBU (95 ppm H2O) and 1-hexanol (26 ppm H2O) were charged into a flame-dried flask. N-Decane (2 mL, undried) was added and was found to be miscible at room temperature; only one homogeneous liquid phase was observed. CO2 (H2O<5 ppm) was slowly bubbled through the decane/1-hexanol/DBU mixture at 1 bar overnight. The resultant mixture appeared split into two separate liquids. Argon was then bubbled through the two-phase liquid mixture for 1 h at 35° C. After 1 h, the two liquids had merged into one liquid. A schematic representation of this reversible reaction appears in FIG. 4. Similar experiments were performed with hexane in place of decane and with several alcohols (1-propanol, 1-butanol, 1-hexanol, 1-octanol, and 1-decanol) in place of 1-hexanol; similar results were obtained except that with 1-decanol, no phase split was observed even after the treatment with CO2. Miscibility data for alcohol/DBU systems is presented in Table 1.

reactant | DBU | 26.8 mmol | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | 1-hexanol | C(CCCCC)O | C6H14O
reactant | N-Decane | 2 mL | CCCCCCCCCC | C10H22
solvent | hexane | CCCCCC | C6H14
product | 1-decanol | C(CCCCCCCCC)O | C10H22O
